US08357717B2
Stage 2: 7-(tert-Butoxycarbonyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid
LiOH.H2O (8.8 mmol, 4.0 equiv.) was added at 0° C. to a solution of 7-tert-butyl 2-ethyl-5,6-dihydroimidazo[1,2-a]pyrazine-2,7(8H)-dicarboxylate (2.2 mmol, 1.0 equiv.) in methanol/water (2.5:1, 35 ml), and the mixture was then stirred for 2 h at 25° C. When the reaction was complete (TLC monitoring), the methanol was removed in vacuo, the residue was diluted with water (40 ml), and extraction with ethyl acetate (2×40 ml) was carried out. The aqueous phase was then adjusted to pH 2-3 with 1N HCl solution, and the resulting solid was filtered out. The solid was taken up in toluene, and the solvent was then removed in vacuo (2×) to yield the desired product in the form of a white solid. Yield: 68%.

reactant | LiOH.H2O | 8.8 mmol, 4.0 equiv. | O[Li].O
reactant | 7-tert-butyl 2-ethyl-5,6-dihydroimidazo[1,2-a]pyrazine-2,7(8H)-dicarboxylate | 2.2 mmol, 1.0 equiv. | C(C)C1(N=C2N(CCN(C2)C(=O)OC(C)(C)C)C1)C(=O)[O-]
solvent | methanol water | 35 ml | CO.O
product | 7-(tert-Butoxycarbonyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid | Yield: 68% | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C=C(N2)C(=O)O | C12H17N3O4
